US05061720
A mixture of 100 g (0.44 mole) of 2-bromohexanoic acid ethyl ester (Aldrich) and 39.0 g (0.51 mole) of thiourea (Fisher) in 600 mL of ethanol was stirred and heated on a steam bath for 2 hr. The solvent was evaporated under reduced pressure to give a solid residue. The solid was treated with 75 g (0.44 mole) of barium hydroxide in 1 L of 20% aqueous ethanol and the reaction mixture was stirred and heated at reflux for 20 hr. An additional 30.0 g (0.18 mole) of barium hydroxide was added and stirring and heating was continued for 20 hr. The reaction mixture was filtered and the filtrate pH was adjusted to 2 with concentrated hydrochloric acid. The mixture was extracted with three 500 mL portions of ethyl ether. The ethereal extracts were washed twice with 300 mL portions of water and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to yield 52.8 g (80%) of 2-mercaptohexanoic acid as a light-yellow, viscous oil that has a sharp onion smell.

reactant | 2-bromohexanoic acid ethyl ester | 0.44 mole, 100 g | C(C)OC(C(CCCC)Br)=O | C8H15BrO2
reactant | thiourea | 0.51 mole, 39.0 g | NC(=S)N | CH4N2S
reactant | barium hydroxide | 0.44 mole, 75 g | [OH-].[Ba+2].[OH-]
reactant | barium hydroxide | 0.18 mole, 30.0 g | [OH-].[Ba+2].[OH-]
solvent | ethanol | 600 mL | C(C)O | C2H6O
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 2-mercaptohexanoic acid | 52.8 g, 80% | SC(C(=O)O)CCCC | C6H12O2S
